Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
First time seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male with past medical history 
of
A. fib (on Xarelto, Metoprolol), Aortic stenosis S/p AVR, 
Bilateral carotid artery stenosis, Chronic coronary artery
disease, Hyperlipidemia, h/o prostate adenocarcinoma (age of ___,
s/p , last PSA 0 on ___ for whom Neurology is consulted for
first life time seizure.

Per pt's wife, he has had a new cough for the past 2 weeks. He
was tired all day yesterday and slept all day. Last night she
heard him make grunting sounds in sleep. He was turned away from
her. She turned him towards her side, and noticed that he had
perioral cyanosis, and cyanosis on his digits. He was holding 
his
right arm extended and "pointing" with index finger. He then had
generalized shaking of all 4 extremities. This lasted for a 
total
of 20 mins. Pt's wife called EMS, pt was still shaking on their
arrival and EMS administered him Ativan in the ambulance. He 
then
woke up, and was not confused or sleepy.

No previous history of seizures.
Pt reports a 10 pound weight loss over past month, appetite has
been poor. He was previously able to walk up to ___ miles, has
not been walking recently as he feels he is lazy. He also drinks
alcohol every day ___ beers, but didn't drink yesterday as he 
was
tired all day. Quit smoking ___ y ago. Sometimes smokes 
marijuana,
but has not done so recently. He has not had any other sick
symptoms, no recent fever. Had his flu shot 1 week ago. No neck
pain or neck stiffness.

Reports no head trauma. No OTC meds. Reports good compliance 
with
all his daily meds. 

 
Past Medical History:
• Aortic stenosis [I35.0] ___  
S/p AVR at ___ at ___. Cardiologist : dr.
___. 
• Bilateral carotid artery stenosis [I65.23] ___ ---Last
Carotid US in ___, b/l Carotid ___
• Centrilobular emphysema [J43.2] ___ 
• Hilar adenopathy [R59.0] ___ 
• Graves disease [E05.00] ___ 
• Spinal stenosis of lumbar region [M48.061] ___ 
• Generalized ischemic myocardial dysfunction [I25.5] ___ 

• Chronic coronary artery disease [I25.10] ___ 
• Atrial fibrillation [I48.91] ___ 
• Hyperlipidemia [E78.5] ___ 
• Adenocarcinoma of prostate [C61] ___ 
• L4-5 DLIF, ___ ___ 
• mulitvessel CABG 
• radical prostectomy 
• T & A               
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: has diffuse superficial bruising esp over arms, chronic.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. No dysarthria. Able to follow both midline 
and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted. ___
strength in all ext. 

-Sensory: No deficits to light touch throughout. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: deferred
===
DISCHARGE PHYSICAL EXAM:
-Unchanged from admission
 
Pertinent Results:
___ 07:08AM BLOOD WBC-5.4 RBC-3.97* Hgb-12.6* Hct-37.7* 
MCV-95 MCH-31.7 MCHC-33.4 RDW-13.0 RDWSD-45.0 Plt ___
___ 07:08AM BLOOD Neuts-60.5 ___ Monos-10.8 Eos-2.4 
Baso-0.7 Im ___ AbsNeut-3.29 AbsLymp-1.36 AbsMono-0.59 
AbsEos-0.13 AbsBaso-0.04
___ 07:08AM BLOOD ___ PTT-41.4* ___
___ 07:08AM BLOOD Glucose-88 UreaN-10 Creat-1.0 Na-141 
K-4.2 Cl-105 HCO3-23 AnGap-13
___ 12:55PM BLOOD ALT-12 AST-21 AlkPhos-71 TotBili-0.9
___ 12:55PM BLOOD Lipase-15
___ 12:55PM BLOOD cTropnT-<0.01
___ 07:08AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.0
___ 12:55PM BLOOD %HbA1c-5.6 eAG-114
___ 12:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:58PM BLOOD Lactate-1.1

MRI HEAD W/W/O CONTRAST:

IMPRESSION:
 
 
1. No acute intracranial abnormality or abnormal intracranial 
enhancement.  No
intracranial mass, acute infarct or hemorrhage.
2. No evidence for mesial temporal sclerosis, gray matter to be 
or focal
cortical dysplasia.

EEG:
-No epileptiform discharges
 
Brief Hospital Course:
___ year old male with past medical history of A. fib (on 
Xarelto, Metoprolol), Aortic stenosis S/p AVR, Bilateral carotid 
artery stenosis, chronic coronary artery
disease, hyperlipidemia, h/o prostate adenocarcinoma presenting 
with possible first-time seizure, which was reportedly resolved 
s/p Ativan in the ambulance.

#POSSIBLE SEIZURE: EEG showed no seizure-like activity or other 
abnormalities. Given history of prostate cancer, MRI head was 
obtained to assess for potential metastasis that could be 
serving as a seizure focus. However, it returned WNL. Toxic, 
metabolic, infectious work-up also returned WNL. Per wife at 
bedside, the mental status has remained at baseline since 
admission. It is possible that the patient had a first-time 
seizure, though it is unclear what the precipitant was. As the 
episode initially occurred as the patient was sleeping, 
parasomnia or REM-sleep behavior disorder. Per discussion, the 
patient and wife deferred starting on an AED.

#COMORBIDITIES: the patient was continued on his home 
medications.

==
Transitional issues:
[] Please consider starting an AED, if the patient continues to 
have similar episodes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Metoprolol Tartrate 50 mg PO BID 
3. rivaroxaban 20 mg oral DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Metoprolol Tartrate 50 mg PO BID  
4.  rivaroxaban 20 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
First time seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for possible seizures, after your 
wife found you to be shaking in bed. 

You were connected to the EEG, which record your brain waves. 
Fortunately, it did not show any other abnormalities. 

Imaging of your head, by MRI, also did not show any 
abnormalities. 

We cannot say for certain if you had a seizure, but at the time 
of your discharge, all of your workup has been unremarkable.

We did not change any medications during this hospitalization.

Please take your medications as they were previously prescribed.

Per MA state law, please DO NOT DRIVE for at least 6 months.

It was our pleasure taking care of you!

Sincerely,

Your ___ neurology team
 
Followup Instructions:
___